US07057042B2
ethyl 6-(trifluoromethyl)thieno[3,2-b]pyridine-2-carboxylate
3-Chloro-5-(trifluoromethyl)-2-pyridinecarbaldehyde (Chemical Abstracts number 175277-50-6, purchase from Maybridge), potassium carbonate (4.95 g), and ethyl mercaptoacetate (2.52 g) were combined in N,N-dimethylformamide (25 mL) at 25° C. and stirred for 18 hours. The mixture was then heated at 50° C. for 6 hours, allowed to cool to room temperature, poured into a mixture of diethyl ether (80 mL) and dichloromethane (25 mL), and washed with aqueous sodium carbonate. The organic phase was dried over sodium sulfate, filtered, and the filtrate concentrated under reduced pressure. The residue was dissolved in dichloromethane and filtered to remove solids. The filtrate was concentrated and the residue purified by flash chromatography (dichloromethane) to provide the title compound. MS (DCI/NH3) m/z 276.0 (M+H)+.

reactant | 3-Chloro-5-(trifluoromethyl)-2-pyridinecarbaldehyde | ClC=1C(=NC=C(C1)C(F)(F)F)C=O | C7H3ClF3NO
reactant | potassium carbonate | 4.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl mercaptoacetate | 2.52 g | SCC(=O)OCC | C4H8O2S
reactant | diethyl ether | 80 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | ethyl 6-(trifluoromethyl)thieno[3,2-b]pyridine-2-carboxylate | FC(C=1C=C2C(=NC1)C=C(S2)C(=O)OCC)(F)F | C11H8F3NO2S
